US04920225
2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-[ 2-(N-benzyl-N-methylamino)ethoxycarbonyl]-1,4-dihydropyridine.
Similarly, proceeding as in parts (A)(1) and (B) above but substituting (+)-2,6-dimethyl-3-methoxysulfonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine, (-)-2,6-dimethyl-3-methoxysulfonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine, (+)-2,6-dimethyl-3-dimethylphosphonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine, (-)-2,6-dimethyl-3-dimethylphosphonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine, (+)-2,6-dimethyl-3-diethylphosphonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine, (-)-2,6-dimethyl-3-diisopropylphosphonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine, (+)-2,6-dimethyl-3-nitro-4-(2-trifluoromethylphenyl)-5-carboxy-1,4-dihydropyridine, (-)-2,6-dimethyl-3-nitro-4-(2-trifluoromethylphenyl)-5-carboxy-1,4-dihydropyridine, (+)-2,6-dimethyl-3-nitro-4-(4-benzodioxazolyl)-5-carboxy-1,4-dihydropyridine, (-)-2,6-dimethyl-3-nitro-4-(4-benzodioxazolyl)-5-carboxy-1,4-dihydropyridine, (+)-2,6-dimethyl-3-cyano-4-(2-trifluoromethylphenyl)-5-carboxy-1,4-dihydropyridine, or (-)-2,6-dimethyl-3-cyano-4-(2-trifluoromethylphenyl)-5-carboxy-1,4-dihydropyridine, for (+)-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine, and using methanol, ethanol, isopropanol, the following compounds are prepared:

reactant | (+)-2,6-dimethyl-3-methoxysulfonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine | CC=1NC(=C(C(C1S(=O)(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C | C15H16N2O7S
reactant | (+)-2,6-dimethyl-3-nitro-4-(2-trifluoromethylphenyl)-5-carboxy-1,4-dihydropyridine | CC=1NC(=C(C(C1[N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F)C(=O)O)C | C15H13F3N2O4
reactant | (+)-2,6-dimethyl-3-nitro-4-(4-benzodioxazolyl)-5-carboxy-1,4-dihydropyridine | CC=1NC(=C(C(C1[N+](=O)[O-])C1=CC=CC2=C1NOO2)C(=O)O)C | C14H13N3O6
reactant | (+)-2,6-dimethyl-3-cyano-4-(2-trifluoromethylphenyl)-5-carboxy-1,4-dihydropyridine | CC=1NC(=C(C(C1C#N)C1=C(C=CC=C1)C(F)(F)F)C(=O)O)C | C16H13F3N2O2
reactant | (+)-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C | C16H16N2O6
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-[ 2-(N-benzyl-N-methylamino)ethoxycarbonyl]-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN(C)CC1=CC=CC=C1)C | C26H29N3O6
